US08877759B2
Trifluoroacetic Acid (2.500 mL) was added to a solution of tert-butyl N-[5-bromo-3-[3-[4-(chloromethyl)phenyl]isoxazol-5-yl]pyrazin-2-yl]-N-tert-butoxycarbonyl-carbamate (500 mg, 0.8836 mmol) in dichloromethane (20.00 mL) and the mixture was stirred at ambient temperature for 10 minutes. The reaction mixture was concentrated in vacuo to give 5-bromo-3-[3-[4-(chloromethyl)phenyl]isoxazol-5-yl]pyrazin-2-amine (323.1 mg, assumed 100% yield) which was used as such in next step. LC/MS m/z 365.4 [M−H]− Step 2: 5-bromo-3-[3-[4-(chloromethyl)phenyl]isoxazol-5-yl]pyrazin-2-amine was dissolved in ethanol, methanamine in ethanol (2.495 g, 3.300 mL, 26.51 mmol) was added and the mixture was stirred at 70° C. in a microwave. The reaction mixture was concentrated in vacuo. The residue was partitioned between dichloromethane and saturated aqueous sodium bicarbonate. Combined organic extract was dried (MgSO4) and concentrated in vacuo yielding 5-bromo-3-(3-(4-((methylamino)methyl)phenyl)isoxazol-5-yl)pyrazin-2-amine as an oil that was used without further purification.

reactant | Trifluoroacetic Acid | 2.500 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl N-[5-bromo-3-[3-[4-(chloromethyl)phenyl]isoxazol-5-yl]pyrazin-2-yl]-N-tert-butoxycarbonyl-carbamate | 0.8836 mmol, 500 mg | BrC=1N=C(C(=NC1)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C)C1=CC(=NO1)C1=CC=C(C=C1)CCl | C24H26BrClN4O5
solvent | dichloromethane | 20.00 mL | ClCCl | CH2Cl2
product | 5-bromo-3-[3-[4-(chloromethyl)phenyl]isoxazol-5-yl]pyrazin-2-amine | 323.1 mg, 100% yield | BrC=1N=C(C(=NC1)N)C1=CC(=NO1)C1=CC=C(C=C1)CCl | C14H10BrClN4O
